* C:\Users\simen\Documents\powersupply\pcb\ltspice\booster.asc
XU1 N001 N008 N007 0 N006 N001 N005 N002 LTC3872
R3 N007 0 10k
R4 N003 N007 300k
V2 N004 0 PULSE(0 4.5 1u 1n 1n 1s 1)
D1 N002 N003 MBRS340
C5 N003 0 10µ
R10 N003 0 1000
M1 N002 N006 0 0 BSC100N06LS3
C6 N001 0 10µ
C7 N008 P001 2.2n
R11 P001 0 10k
L1 N002 N001 4.7µ
C1 N005 0 1n
R2 N001 N005 4700k
R1 N004 N001 0.6
R5 N003 P002 10
M2 P002 N009 0 0 BSC100N06LS3
V1 N009 0 PULSE(0 4.5 10m 1n 1n 1s 1)
.model D D
.lib C:\Users\simen\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\simen\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 20
.lib LTC3872.sub
.backanno
.end
